US07501518B2
To a solution of 3,3″-diisopropyl-2′,3′,5′,6′-tetrahydro-1′H-[2,2′;6′,2″]terpyridin-4′-one (106 mg, 0.314 mmol) in diethylene glycol (3 mL) were added KOH (352 mg, 6.29 mmol) and hydrazine monohydrate (0.61 mL, 12.6 mmol). The reaction mixture was heated to ˜100° C. for 1 h using a sand bath. After 1 h the temperature was raised to 200° C. for about 45 minutes. CH2Cl2 (50 mL) was added to the remaining mixture and was washed with water (3 times 50 mL). The organic layer was dried (MgSO4), filtered and concentrated to provide 100 mg (99%) of 3,3″-diisopropyl-1′,2′,3′,4′,5′,6′-hexahydro-cis-[2,2′;6′,2″]terpyridine (with some DEG). 1H NMR (CDCl3) δ 1.25 (d, 6H, J=9.3 Hz), 1.57-1.65 (m, 2H), 1.68-1.89 (m, 3H), 2.10-2.14 (m, 1H), 3.19-3.30 (m, 3H), 4.33 (br s, 1H), 7.10 (dd, 2H, J=7.8, 4.5 Hz), 7.53 (d, 2H, J=7.8 Hz), 8.46 (d, 2H, J=4.5 Hz).

reactant | 3,3″-diisopropyl-2′,3′,5′,6′-tetrahydro-1′H-[2,2′;6′,2″]terpyridin-4′-one | 0.314 mmol, 106 mg | C(C)(C)C=1C(=NC=CC1)C1NC(CC(C1)=O)C1=NC=CC=C1C(C)C | C21H27N3O
reactant | KOH | 6.29 mmol, 352 mg | [OH-].[K+]
reactant | hydrazine monohydrate | 12.6 mmol, 0.61 mL | O.NN
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | diethylene glycol | 3 mL | C(COCCO)O | C4H10O3
product | 3,3″-diisopropyl-1′,2′,3′,4′,5′,6′-hexahydro-cis-[2,2′;6′,2″]terpyridine | 100 mg, 99% | C(C)(C)C=1C(=NC=CC1)[C@@H]1N[C@@H](CCC1)C1=NC=CC=C1C(C)C | C21H29N3
